US05968920
Preparation of 3,3-dimethyl-2-ethyl-benzisoselenazoline: BXT-51058
Diazabicycloundecene (380 mg; 2.5 mmole) was added to a solution of derivative 3,3-dimethyl-benzisoselenazoline (107 mg; 0.5 mmole) obtained above in bromoethane (1.5 ml). The mixture was stirred at room temperature for 10 h, then the same quantity of diazabicycloundecene was added again. After 14 h at room temperature, the bromoethane was evaporated off under reduced pressure. The desired product was obtained in the form of a very viscous yellow oil after purification by liquid chromatography on a silica column (eluent: cyclohexane--ethyl acetate, 6/1).

reactant | Diazabicycloundecene | 2.5 mmole, 380 mg | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | 3,3-dimethyl-benzisoselenazoline | 0.5 mmole, 107 mg | CC1(N[Se]C2=C1C=CC=C2)C | C9H11NSe
solvent | bromoethane | 1.5 ml | BrCC | C2H5Br
product | 3,3-dimethyl-2-ethyl-benzisoselenazoline | Yield: 53% | CC1(N([Se]C2=C1C=CC=C2)CC)C | C11H15NSe
